US08859773B2
To a solution of 1-tert-butyl 4-ethyl 4-((5-bromo-1-isopropyl-1H-pyrazol-4-yl)methyl)piperidine-1,4-dicarboxylate (14.5 g, 31.6 mmol) in methanol (50 mL) was added lithium hydroxide (1.52 g, 36.2 mmol) and the mixture was stirred at 80° C. for 18 hours. An additional portion of lithium hydroxide (2.55 g, 63.3 mmol) was added and the mixture was heated under vigorous reflux for 3 hours, cooled to room temperature, the solvent was removed in vacuo. The residue was washed with ethyl acetate, filtered, and the filtrate was saved. The solids were dissolved in 2 N aqueous sodium hydroxide (40 mL) and then acidified to pH 5 with 10% citric acid solution. The aqueous solution was extracted with ethyl acetate (3×40 mL), the organics were combined, dried over magnesium sulfate, filtered and then combined with the original filtrate. The solvent was removed from the filtrate under reduced pressure and the resulting residue was purified by flash column chromatography (ethyl acetate/heptanes) to afford 4-((5-bromo-1-isopropyl-1H-pyrazol-4-yl)methyl)-1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid (10.1 g, 74%) as a colorless solid. +ESI (M+H) 429.9; 1H NMR (300 MHz, CDCl3, δ): 7.41 (s, 1H), 4.64 (m, 1H), 3.94 (m, 2H), 2.95 (m, 2H), 2.68 (m, 2H), 2.09 (m, 2H), 1.47 (m, 17H).

reactant | 1-tert-butyl 4-ethyl 4-((5-bromo-1-isopropyl-1H-pyrazol-4-yl)methyl)piperidine-1,4-dicarboxylate | 31.6 mmol, 14.5 g | BrC1=C(C=NN1C(C)C)CC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C20H32BrN3O4
reactant | lithium hydroxide | 36.2 mmol, 1.52 g | [OH-].[Li+]
reactant | lithium hydroxide | 63.3 mmol, 2.55 g | [OH-].[Li+]
solvent | methanol | 50 mL | CO | CH4O
product | 4-((5-bromo-1-isopropyl-1H-pyrazol-4-yl)methyl)-1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid | 10.1 g, 74% | BrC1=C(C=NN1C(C)C)CC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)O | C18H28BrN3O4
